US08232409B2
A. 5-Methyl-2′-trifluoromethyl-biphenyl-3,4-diamine
The title compound was prepared from 4-bromo-2-methyl-6-nitro-phenylamine and 4,4,5,5-tetramethyl-2-(2-trifluoromethyl-phenyl)-[1,3,2]dioxaborolane according to the procedures described in Example 1, steps D and E. 1H-NMR (400 MHz, CDCl3) δ: 7.68 (d, J=7.8 Hz, 1H), 7.47 (t, J=7.3 Hz, 1H), 7.36 (t, J=7.6 Hz, 1H), 7.30 (d, J=7.6 Hz, 1H), 6.59 (s, 1H), 6.61 (s, 1H), 3.41 (br. s., 4H), 2.19 (s, 3H).

reactant | 4-bromo-2-methyl-6-nitro-phenylamine | BrC1=CC(=C(C(=C1)[N+](=O)[O-])N)C | C7H7BrN2O2
reactant | 4,4,5,5-tetramethyl-2-(2-trifluoromethyl-phenyl)-[1,3,2]dioxaborolane | CC1(OB(OC1(C)C)C1=C(C=CC=C1)C(F)(F)F)C | C13H16BF3O2
product | 5-Methyl-2′-trifluoromethyl-biphenyl-3,4-diamine | CC=1C(=C(C=C(C1)C1=C(C=CC=C1)C(F)(F)F)N)N | C14H13F3N2
